US04563474
7.4 g (42 millimoles) of diethylcyanomethyl phosphonate and 6.8 g (38 millimoles) of 30% strength sodium methylate were simultaneously added dropwise to 10.0 g (42 millimoles) of N-acetonylsaccharin in 200 ml of dimethylformamide, while stirring thoroughly, the temperature increasing to 34° C. The reaction mixture was stirred for a further hour at room temperature, after which the contents of the flask were poured onto ice-water and extracted three times with methylene chloride, the organic phase was dried and evaporated down under reduced pressure, and the crude product was recrystallized from ethanol to give 2.5 g (23%) of 3-(2,3-dihydro-1,1-dioxido-3-oxo-1,2-benzisothiazol-2-yl)-1-cyano-2-methylprop-1-ene of melting point 118°-121° C.

reactant | diethylcyanomethyl phosphonate | 42 millimoles, 7.4 g | P(OC(C#N)(CC)CC)([O-])=O
reactant | sodium methylate | C[O-].[Na+]
reactant | N-acetonylsaccharin | 42 millimoles, 10.0 g | C(C(=O)C)N1S(=O)(=O)C2=CC=CC=C2C1=O | C10H9NO4S
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 3-(2,3-dihydro-1,1-dioxido-3-oxo-1,2-benzisothiazol-2-yl)-1-cyano-2-methylprop-1-ene | 2.5 g, 23% | O=S1(N(C(C2=C1C=CC=C2)=O)CC(=CC#N)C)=O | C12H10N2O3S
